### PR TITLE
subtyping in the PER model

### PR DESCRIPTION
**Pull request by HuStmpHrrr**
#121

### CODE REVIEW

File: theories/Core/Semantic/PER/Lemmas.v [hunk 1]
```diff
@@ -615,6 +615,146 @@ Proof with mautosolve.
...
+Qed.
+
+Lemma PER_refl2 A (R : relation A) `(per : PER A R) : forall a b, R a b -> R b b.
+Proof.
+  intros. symmetry in H.
+  apply PER_refl1 in H;
+    auto.
+Qed.
+
+Ltac saturate_refl :=
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER/Lemmas.v:645]: suggest a better place to put this tactic

**Comment by HuStmpHrrr** [comment]
I think this PR is already ready.

**Comment by HuStmpHrrr** [comment]
why CI doesn't start? how do I kick it off manually?

**Review by Ailrun — APPROVED** [review]
